US09238644B2
(b) 1-(2-(2-(5-Chloro-2-(1-(pyrrolidin-3-yl)-1H-pyrazol-4-ylamino)pyrimidin-4-yl)ethyl)phenyl)cyclopropanecarboxamide (20)
To a stirred solution of tert-butyl 3-(4-(4-(2-(1-carbamoylcyclopropyl)phenethyl)-5-chloropyrimidin-2-ylamino)-1H-pyrazol-1-yl)pyrrolidine-1-carboxylate A21 (0.164 g, 0.297 mmol) in DCM (5 mL) was added 4 M HCl solution in 1,4-dioxane (0.223 mL). The mixture was stirred for 5 hours before additional 4 M HCl in dioxane (3 eq.) was added and the mixture stirred for another 16 hours. Another portion of 4 M HCl in 1,4-dioxane (2 mL) was added and the mixture was stirred for 16 hours. The solvent was removed and the residue was diluted with 1 M HCl aq. (˜5 mL) and washed with EtOAc (2×10 mL). The aqueous layer was basified with 1 M NaOH and extracted with EtOAc (3×10 mL). The combined organics were dried (MgSO4), filtered and concentrated in vacuo to give a crude white paste that was purified by flash chromatography (0-100% EtOAc in cyclohexane) to give the title compound as a red oil. Further purification by HPLC (Gradient: 20-100%, Acetonitrile 0.1% formic acid in water 0.1% formic acid, 12 min) gave the title compound 20 as a clear gum (0.012 g, 9% yield). 1H NMR (300 MHz, MeOD) δ 1.14 (d, J=3.30 Hz, 2H), 1.64 (d, J=3.30 Hz, 2H), 2.32-2.44 (m, 1H), 2.46-2.65 (m, 1H), 3.12-3.26 (m, 4H), 3.43-3.54 (m, 1H), 3.60-3.80 (m, 3H), 5.21-5.32 (m, 1H), 7.23-7.45 (m, 4H), 7.64 (s, 1H), 8.08 (m, 1H), 8.29 (m, 1H). LCMS-C: rt 4.29 min; m/z 452 [M+H]+.

reactant | tert-butyl 3-(4-(4-(2-(1-carbamoylcyclopropyl)phenethyl)-5-chloropyrimidin-2-ylamino)-1H-pyrazol-1-yl)pyrrolidine-1-carboxylate | C(N)(=O)C1(CC1)C1=C(CCC2=NC(=NC=C2Cl)NC=2C=NN(C2)C2CN(CC2)C(=O)OC(C)(C)C)C=CC=C1 | C28H34ClN7O3
reactant | HCl | 4 M | Cl | ClH
reactant | HCl | 4 M | Cl | ClH
reactant | HCl | 4 M | Cl | ClH
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 0.223 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 3 eq. | O1CCOCC1 | C4H8O2
product | 1-(2-(2-(5-Chloro-2-(1-(pyrrolidin-3-yl)-1H-pyrazol-4-ylamino)pyrimidin-4-yl)ethyl)phenyl)cyclopropanecarboxamide | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C1CNCC1)CCC1=C(C=CC=C1)C1(CC1)C(=O)N | C23H26ClN7O
